US05176933
Seventeen millimoles of tetradecenylsuccinic anhydride (5.0 gm), 34 millimoles of oleyl alcohol (9.1 gm), 50 mg of adipic acid and 10 ml of toluene were combined in a boiling flask (with attached Dean-Stark trap) and refluxed for about 6 hours in the presence of the catalyst p-toluenesulfonic acid. Excess toluene was removed at ambient pressure. The residue was applied to a silica gel column, and eluted with petroleum ether. Elution with petroleum ether gave dioleyl tetradecenylsuccinate. Oleyl alcohol and other impurities were retained on the column. The dioleyl tetradecenylsuccinate has a low melting point and can be used for the commercial production of calorie-reduced fried snack foods.

reactant | tetradecenylsuccinic anhydride | Seventeen millimoles, 5.0 gm | C(=CCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C18H30O3
reactant | oleyl alcohol | 34 millimoles, 9.1 gm | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | adipic acid | 50 mg | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | dioleyl tetradecenylsuccinate | C(=CCCCCCCCCCCCC)C(C(=O)OCCCCCCCC\C=C/CCCCCCCC)CC(=O)OCCCCCCCC\C=C/CCCCCCCC | C54H100O4
